Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
HPI:

Has had intermittent abdominal pain over last few years. Though
he feels those are different as they are more of a 
bloating/gassy
feeling that just feels uncomfortable. He attributes this to
gastritis and he takes various ___ meds for this and they 
usually
resolve.

Developed severe abd pain in left upper quadrant radiating
beneath ribs and to his back. sharp pain. worsens with eating.
Nothing helped it. Also associated with nausea, no vomiting,
yellow greasy diarrhea. feels gassy. no blood.

This episode was different from prior episodes in much more 
pain.

Drinks ___ pint of liquor per day as well as several beers. 
Never
had withdrawal sx. No known hx of gallstones. No family history
of pancreatitis. No new meds.

In ED persistently tachycardic
- a bit unclear but appears 4L of fluids (LRx3L) over ~13 hours
- morphine 4mg IV x 5
- CT: acute pancreatitsi without evidence of necrosis or
hemorrhage. no clots. small ascites. 

When I met patient he felt pain was a bit better controlled, but
still ___. No other change.

ROS: 10 pt ros otherwise negative except blurry vision

 
Past Medical History:
PMH:
1. Hypertension
2. GERD
 
Social History:
___
___ History:
___:  brother, grandfather died of cancer, unknown type, no 
family
history of pancreatitis

 
Physical Exam:
Gen: Lying in bed in no apparent distress
Vitals:T 98.3, BP 146/89, HR 107, RR18, O2Sat 97% RA 
HEENT: Anicteric, eyes conjugate, MMM, no JVD
Cardiovascular: RRR no MRG, nl. S1 and S2
Pulmonary: Lung fields clear to auscultation throughout
Gastroinestinal: Soft, mildly tender, non-distended, bowel 
sounds
present, no HSM
MSK: No edema
Skin: No rashes or ulcerations evident
Neurological: Alert, interactive, speech fluent, face symmetric,
moving all extremities
Psychiatric: pleasant, appropriate affect

 
Pertinent Results:
___ 09:33PM   GLUCOSE-75 UREA N-12 CREAT-0.7 SODIUM-133* 
POTASSIUM-3.8 CHLORIDE-104 TOTAL CO2-17* ANION GAP-12
___ 09:33PM   estGFR-Using this
___ 09:33PM   ALT(SGPT)-12 AST(SGOT)-12 ALK PHOS-140* TOT 
BILI-0.7
___ 09:33PM   LIPASE-691*
___ 09:33PM   cTropnT-<0.01
___ 09:33PM   TRIGLYCER-4231* HDL CHOL-48 CHOL/HDL-10.7 
___
___ 07:15PM   GLUCOSE-77 UREA N-13 CREAT-LESS THAN  
SODIUM-133* POTASSIUM-4.1 CHLORIDE-102 TOTAL CO2-21* ANION 
GAP-10
___ 07:15PM   LIPASE-827*
___ 05:20PM URINE  UHOLD-HOLD
___ 05:20PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG

RUQUS 
IMPRESSION: 
  
  
-Echogenic liver most consistent with fatty deposition.  Please 
note, more 
advanced forms of liver disease cannot be excluded on the basis 
of this 
appearance. 
-No cholelithiasis or evidence of cholecystitis. 

CT Abdomen 
EXAMINATION:  CT ABDOMEN PELVIS WITH CONTRAST 
  
INDICATION:  NO_PO contrast; History: ___ with epigastric pain 
with worsening 
pain and drop in HctNO_PO contrast// eval for hemorrhagic 
pancreatitis 
  
TECHNIQUE:   Single phase split bolus contrast: MDCT axial 
images were 
acquired through the abdomen and pelvis following intravenous 
contrast 
administration with split bolus technique. 
Oral contrast was not administered. 
Coronal and sagittal reformations were performed and reviewed on 
PACS. 
  
DOSE:  Acquisition sequence: 
   1) Stationary Acquisition 6.0 s, 0.5 cm; CTDIvol = 43.3 mGy 
(Body) DLP = 
21.7 mGy-cm. 
   2) Spiral Acquisition 6.1 s, 48.1 cm; CTDIvol = 11.8 mGy 
(Body) DLP = 566.0 
mGy-cm. 
 Total DLP (Body) = 588 mGy-cm. 
  
COMPARISON:  None. 
  
FINDINGS:  
  
LOWER CHEST: Bibasilar atelectasis is noted.  There is no 
evidence of pleural 
or pericardial effusion. 
  
ABDOMEN: 
  
HEPATOBILIARY: There is diffuse hepatic steatosis.  A 
subcentimeter 
hypoattenuating lesion in the right lobe (02:20) is too small to 
characterize. 
There is no evidence of intrahepatic or extrahepatic biliary 
dilatation.  The 
gallbladder is within normal limits. 
  
PANCREAS: The pancreas has normal attenuation, without evidence 
of focal 
lesions or pancreatic ductal dilatation.  There is marked 
peripancreatic fat 
stranding and small free fluid in the abdomen, compatible with 
acute 
pancreatitis.  No formed fluid collections are seen.  The 
portal, superior 
mesenteric and splenic veins are patent.  The celiac axis and 
SMA are patent, 
without aneurysm formation. 
  
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions. 
  
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram.  
There is no evidence of focal renal lesions or hydronephrosis.  
There is no 
perinephric abnormality. 
  
GASTROINTESTINAL: The stomach is unremarkable.  Small bowel 
loops demonstrate 
normal caliber, wall thickness, and enhancement throughout.  
There is mild 
submucosal fat deposition in the colonic wall, which may 
represent sequela of 
prior inflammation.  The colon and rectum are otherwise within 
normal limits.  
The appendix is normal (2:63). 
  
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is no 
free fluid in the pelvis. 
  
REPRODUCTIVE ORGANS: The prostate and seminal vesicles are 
within normal 
limits. 
  
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There 
is no pelvic or inguinal lymphadenopathy. 
  
VASCULAR: There is no abdominal aortic aneurysm.  Mild 
atherosclerotic disease 
is noted. 
  
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture. 
  
SOFT TISSUES: An umbilical hernia containing fat is noted. 
  
IMPRESSION: 
  
  
1. Acute pancreatitis without evidence of necrosis or 
hemorrhage.  Adjacent 
vasculature are patent. 
2. Small free fluid in the abdomen, without any formed fluid 
collections 
identified. 

 
Brief Hospital Course:
Problems and plan of care:
Assessment and Plan:  
___ with GERD and hypertension who presents with acute 
pancreatitis ___ alcohol use disorder. 

#Pancreatitis 
#Tachycardia 
Presented in SIR response (tachycardia, leukocytosis) in setting 
of pancreatitis. No evidence of infection at this time. CT with 
evidence supporting acute pancreatitis. GI was consulted and 
recommended IVF, pain medications, and advancing diet as 
tolerated. With IVF and pain medications he improved. Discussed 
with him the damage alcohol is having on his pancreas and the 
danger of continuing to drink. His diet was advanced and he was 
able to tolerate a regular diet on discharge. He was weaned from 
narcotic medications. 

#Anemia 
Found to be anemic on admission to hgb of 8.2. No signs of 
bleeding. Likely in some part due to dilution in the setting of 
volume resuscitation and some poor production in the setting of 
alcohol use. He will need his CBC rechecked in 2 weeks and if 
still low consider further workup. 

#Etoh abuse
daily drinker of ___ pint a day denies any prior withdrawal and 
did not evidence any withdrawal while admitted. He was briefly 
on a CIWA but did not score. Discussed with him the importance 
of stopping given his pancreatitis and he was open to this. 
thiamine, MVI
- social work

#Tachycardia 
Sinus tachycardia likely in the setting of above. Wanted him to 
stay one more day for fluids but he stated he had to go back to 
work. He is to see his PCP in one week and will need his HR 
rechecked at that time. 

#HTN
thiazide

#GERD 
- continue omeprazole

> 30 minutes were spent on complex discharge 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 25 mg PO DAILY 
2. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Hydrochlorothiazide 25 mg PO DAILY  
2.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Acute Pancreatitis 
#Alcohol Use Disorder 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

Your were admitted after you began to have severe abdominal 
pain. You had a CT scan which showed acute pancreatitis. This is 
inflammation of the pancreas. You were seen by a specialist 
(gastroenterologist) who recommended bowel rest, pain 
medications, and intravenous fluids. With this you improved and 
we slowly advanced your diet. 

This episode of pancreatitis was likely due to alcohol. Alcohol 
is seriously harming your body. You should abstain from all 
alcohol use. Please discuss this further with your primary care 
doctor. 

You were also noted to have anemia. You will need your blood 
count rechecked in two weeks. 

It was a pleasure caring for you, 
Your ___ Team 
 
Followup Instructions:
___